US05643950
N,N,N-Trimethyl-[4-(3,3,3-triphenylpropoxy)phenyl]methylammonium chloride.
A suspension of 4-(3,3,3-triphenylpropoxy)benzyl chloride, prepared in example 28, (413 mg, 1.0 mmol) in commercial 33% trimethylamine-ethanol solution was sealed in a screw-topped culture tube and was heated to 80° C. for 24 hr. The mixture was cooled and the solvent evaporated, and the residue recrystallized from isopropanolethyl acetate to provide the title compound as a hydrate, a white powder, mp 224°-225° C. (dec). 1H NMR (CDCl3) δ 7.43 (d, J=8.7 Hz, 2H) 7.15-7.35 (m, 15H), 6.71 (d, J=8.7 Hz, 2H), 4.82 (s, 2H), 3.73 (t, J=7.7 Hz, 2H), 3.31 (s, 9H), 3.13 (t, J=7.7 Hz, 2H). Anal. calcd. for C31H34NO.Cl.1.5H2O: C, 74.60; H, 7.47; N, 2.81; Cl, 7.10. Found: C, 74.99; H, 7.49; N, 2.83; Cl, 7.07.

reactant | 4-(3,3,3-triphenylpropoxy)benzyl chloride | C1(=CC=CC=C1)C(CCOC1=CC=C(CCl)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H25ClO
reactant | trimethylamine ethanol | CN(C)C.C(C)O
product | N,N,N-Trimethyl-[4-(3,3,3-triphenylpropoxy)phenyl]methylammonium chloride | [Cl-].C[N+](C)(C)CC1=CC=C(C=C1)OCCC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C31H34NO.ClH/c1-32(2,3)25-26-19-21-30(22-20-26)33-24-23-31(27-13-7-4-8-14-27,28-15-9-5-10-16-28)29-17-11-6-12-18-29;/h4-22H,23-25H2,1-3H3;1H/q+1;/p-1
